datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC(C)(C)[C@H]1CC[N+:12]2=[C:11]([N:10]1[C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.CC(C)[Si:63](C(C)C)(C(C)C)[O:12][C:11](C)=[CH2:10]>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[C:11](C)[CH2:10][CH2:20]C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[Si:61](C)(C)[CH:10]=[N+:11]=[N-:12]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([N+:11]#[N:12])[Si:61](C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.O=[N+]([O-])[C:73]1=[CH:74][CH:82]=[CH:83][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[CH:72]1>>CC1=CC=C([S:32]([N-:21][C:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]2=[CH:72][C:73]([N+](=O)[O-])=[CH:74][CH:82]=[CH:83]2)=[O:52])(=[O:33])=[O:43])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N-:10][CH:61]=[N:62]2>>CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]([CH:20]1CC[C:22]([O-:23])=[CH:21]1)[CH:61]=[N:62]2 10=20;20,21=21,22;22,23=23"
"CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[CH:20]([C:21](=[C:22]([O-:23])[O:39]CC)[C:32](=[O:33])[O:34]CC)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=C1 10=20;20,21=21,22;22,23=23"
"CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)(C)[C:74]1=[CH:73][CH:72]=[C:71]([CH:11]([H:10])[CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC(C)(C)[C:74]1=[CH:73][CH:72]=[C:71]([CH+:11][CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[N:82]1[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([C:10]2([I+:11]C3=CC=CC=C3)[C:71](=[O:72])[N:82](C)[C:83](=[O:84])[N:102](C)[C:91]2=[O:92])[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;20,21=21"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.[H:10][CH:11]1[CH:12]=[CH:13][CH2:64][CH:63]=[CH:62]1>>C1C[O:33][C:22]([O-:23])=[CH:21][CH:20]1[H:10].[CH:11]1=[CH:12][CH+:13][CH2:64][CH:63]=[CH:62]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>CC[O:33][C:22](=[CH:21][CH:20]([H:10])[C:41](=[O:42])[O:52]CC)[O-:23].C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]([C:61](C)=[O:62])[C:71](C)=[O:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:22]1 10=20;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]CC[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CC[C:63]3=[C:62]([C:11]2=[N+:12]2CCCC2)[CH:73]=[CH:74][CH:65]=[CH:64]3)[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.[N-:10]1[CH:61]=[CH:62][N:72]=[CH:71]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:61]=[CH:62][N:72]=[CH:71]2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10=20
